US06002008
4-[(3-Bromophenyl)amino]-6,7-dimethoxy-3-quinolinecarboxylic Acid, Ethyl Ester
A mixture of 14.8 g of 3-carbethoxy-4-chloro-6,7-dimethoxylquinoline, 9.46 g of 3-bromoaniline, 4.05 ml of pyridine, and 150 ml of ethanol was refluxed for 30 min, evaporated to remove ethanol, and partitioned with dichloromethane-aq sodium bicarbonate. The organic layer was washed with water, dried, and concentrated. The residue was recrystallized from ethanol to give a white solid, mp 155-158° C.

reactant | 3-carbethoxy-4-chloro-6,7-dimethoxylquinoline | 14.8 g | C(=O)(OCC)C=1C=NC2=CC(=C(C=C2C1Cl)OC)OC | C14H14ClNO4
reactant | 3-bromoaniline | 9.46 g | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | pyridine | 4.05 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 4-[(3-Bromophenyl)amino]-6,7-dimethoxy-3-quinolinecarboxylic Acid, Ethyl Ester | BrC=1C=C(C=CC1)NC1=C(C=NC2=CC(=C(C=C12)OC)OC)C(=O)OCC | C20H19BrN2O4
